US07332509B2
N-(Tetrahydrothiopyran-4-yl)-4-trifluoromethylnicotinamide
Analogously to Example A, equimolar amounts of 4-aminotetrahydrothiopyran (prepared from tetrahydrothiopyran-4-one via the corresponding oxime and subsequent reduction with lithium aluminum hydride in tetrahydrofuran) and 4-trifluoromethylnicotinoyl chloride were reacted in the presence of triethylamine. This gave, after silica gel chromatography (ethyl acetate), the amide as a colorless solid of melting point 161-163° C. (Yield 51.3% of theory).

reactant | 4-aminotetrahydrothiopyran | NC1CCSCC1 | C5H11NS
reactant | tetrahydrothiopyran-4-one | S1CCC(CC1)=O | C5H8OS
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-trifluoromethylnicotinoyl chloride | FC(C1=CC=NC=C1C(=O)Cl)(F)F | C7H3ClF3NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(Tetrahydrothiopyran-4-yl)-4-trifluoromethylnicotinamide | Yield 51.3% | S1CCC(CC1)NC(C1=CN=CC=C1C(F)(F)F)=O | C12H13F3N2OS
